US08022062B2
5-(Aminomethyl)-pyridine-2-carboxylic acid 4-fluoro-benzylamide
Use the General Procedure 6-2, using 4-fluoro-benzylamine (551 mg, 4.4 mmol), lithium 5-(tert-butoxycarbonylamino-methyl)-pyridine-2-carboxylate (740 mg, 2.93 mmol) and DIEA (2.6 mL) as cosolvent, to give the title compound as a white solid (200 mg, 26%). MS (ES+) m/z: 260 (M+H)+.

reactant | 4-fluoro-benzylamine | 4.4 mmol, 551 mg | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | lithium 5-(tert-butoxycarbonylamino-methyl)-pyridine-2-carboxylate | 2.93 mmol, 740 mg | C(C)(C)(C)OC(=O)NCC=1C=CC(=NC1)C(=O)[O-].[Li+]
reactant | DIEA | 2.6 mL | CCN(C(C)C)C(C)C | C8H19N
product | 5-(Aminomethyl)-pyridine-2-carboxylic acid 4-fluoro-benzylamide | 200 mg, 26% | FC1=CC=C(CNC(=O)C2=NC=C(C=C2)CN)C=C1 | C14H14FN3O
